US04302605
In a similar manner, ethanol and H2S may be reacted to produce diethyl sulfide, isopropanol and H2S may be reacted to produce di-isopropyl sulfide; tertiary-butanol may be reacted with H2S to produce di-tertiary-butyl sulfide; and octanol-1 may be reacted with H2S to produce di-n-octyl sulfide.

reactant | H2S | S | H2S
reactant | tertiary-butanol | C(C)(C)(C)O | C4H10O
product | di-tertiary-butyl sulfide | C(C)(C)(C)SC(C)(C)C | C8H18S
